US06448281B1
{2-[2-(4-Formyl-phenoxy)-ethanoylamino]-ethyl}-carbamic Acid tert-Butyl Ester
4-Formylphenoxyacetic acid (0.306 g, 1.70 mmol) was dissolved in DCM (5 mL). DIEA (0.524 g, 4 mmol) and TBTU (0.550 g, 1.70 mmol) were added followed by tert-butyl N-(2-aminoethyl)carbamate (0.250 g, 1.56 mmol). The mixture was stirred 2 h at room temperature, dissolved in EtOAc and washed sequentially with 5% aqueous K2CO3, KHSO4, water and brine. The extract was dried (MgSO4) and concentrated under reduced pressure to give a yellow solid (0.350 g).

reactant | 4-Formylphenoxyacetic acid | 1.70 mmol, 0.306 g | C(=O)C1=CC=C(OCC(=O)O)C=C1 | C9H8O4
reactant | DIEA | 4 mmol, 0.524 g | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1.70 mmol, 0.550 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | tert-butyl N-(2-aminoethyl)carbamate | 1.56 mmol, 0.250 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {2-[2-(4-Formyl-phenoxy)-ethanoylamino]-ethyl}-carbamic Acid tert-Butyl Ester | 0.350 g | C(C)(C)(C)OC(NCCNC(COC1=CC=C(C=C1)C=O)=O)=O | C16H22N2O5
